US05929072
To a solution of 4-fluoro-2-nitrotoluene (3 g, 17.96 mmol) in DMF (25 ml) was added (MeO)2CHNMe2 (3.12 ml, 23.35 mmol) and the mixture warmed at 140° C. for 4 hours in argon atmosphere. Then the solution was allowed to reach room temperature and diethyl ether (100 ml) and water (100 ml) was added. The organic layer was washed with water (2×100 ml) and brine (1×100 ml), dried (MgSO4) and solvent concentrated at reduced pressure, affording an oil which was treated with NaIO4 (11.5 g, 53.6 mmol). The mixture was stirred in 50% aqueous THF (100 ml) at room temperature for 24 hours. The mixture was filtered in a celite pad and eluted with EtOAc. The organic layer was washed with NaHCO3 (saturated solution, 3×100 ml), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (50% CH2Cl2 /Hexane) affording 2-nitro-6-fluorobenzaldehyde as a brown solid.

reactant | 4-fluoro-2-nitrotoluene | 17.96 mmol, 3 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | (MeO)2CHNMe2 | 23.35 mmol, 3.12 ml | C(OC)(OC)N(C)C | C5H13NO2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | water | 100 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-nitro-6-fluorobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C(=CC=C1)F | C7H4FNO3
